US05804586
A solution of 1,1-carbonyldiimidazole (3.2 g) in tetrahydrofuran (50 ml) was added slowly to a solution of the product from the previous reaction (4.3 g) in tetrahydrofuran (50 ml) and the mixture stirred for 18 hours. 2-(4-Methoxy-3-methylphenyl)ethylamine hydrochloride (4.0 g) then triethylamine (2.8 ml) were added and the mixture stirred for 18 hours. As the reaction had not gone to completion a solution of further starting amine (3.09 g) and triethylamine (2.1 ml) in tetrahydrofuran (20 ml) was added and stirring continued for three days. As the reaction remained incomplete, dilute aqueous sodium hydroxide solution (200 ml) was added and stirring continued for 18 hours. The organic layer was separated and the aqueous layer extracted with ethyl acetate (4×150 ml). The combined organics were washed with brine then dried over magnesium sulphate and the solvent removed in vacuo. The residue was washed well with petroleum ether (bp 60°-80° C.) to give crude N-[2-(4-methoxy-3-methylphenyl)ethyl]-1(1,2,3,4-tetrahydronaphth-1-yl)cyclopropanecarboxamide (7.0 g) as a brown gum which was used without further purification.

reactant | 2-(4-Methoxy-3-methylphenyl)ethylamine hydrochloride | 4.0 g | Cl.COC1=C(C=C(C=C1)CCN)C
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-[2-(4-methoxy-3-methylphenyl)ethyl]-1(1,2,3,4-tetrahydronaphth-1-yl)cyclopropanecarboxamide | 7.0 g | COC1=C(C=C(C=C1)CCNC(=O)C1(CC1)C1CCCC2=CC=CC=C12)C | C24H29NO2
